US04137302
Sodium cetyl sulphate
Glyceryl monostearate containing sodium lauryl sulphate

reactant | Glyceryl monostearate | C(CCCCCCCCCCCCCCCCC)(=O)OCC(O)CO | C21H42O4
reactant | sodium lauryl sulphate | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
product | Sodium cetyl sulphate | S(=O)(=O)(OCCCCCCCCCCCCCCCC)[O-].[Na+] | InChI=1S/C16H34O4S.Na/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-20-21(17,18)19;/h2-16H2,1H3,(H,17,18,19);/q;+1/p-1
